US07985753B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-[5-(6-methoxy-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl]-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 5-(6-Methoxy-pyridin-3-yl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 5-(6-Methoxy-pyridin-3-yl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline | COC1=CC=C(C=N1)C1=C2CCNC(C2=CC=C1)C | C16H18N2O
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-[5-(6-methoxy-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl]-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=CC(=C1CC2)C=2C=NC(=CC2)OC)C | C23H20ClN5O2
